US07405300B2
1-Phenyl-1H-indole-2,3-dione
The title compound is prepared following the procedures of Bryant, N. M., III et al. Syn Commun, 23, 1617-25 (1993) as follows. A solution of diphenylamine (26.6 g, 157 mmol) in toluene (65 mL) is added slowly to a solution of oxalyl chloride (14.8 mL, 170 mmol) in toluene (35 mL) while cooling in an ice-water bath to maintain the temperature below 40° C. The resulting brown slurry is heated at 55-65° C. for 1 hr. CAUTION: There is vigorous evolution of hydrogen chloride gas. Approximately 100 mL of solvent is removed by distillation (it contains unreacted oxalyl chloride) and the residue is heated overnight at 118-125° C. The reaction is cooled and then poured into ice-water (200 mL), extracted with ethyl acetate (4×250 mL). The combined extract is dried, filtered and concentrated to give 1-phenyl-1H-indole-2,3-dione (33.0 g, 94% yield). H-NMR 7.70 (1H, d), 7.58 (3H, d), 7.43 (3H, m), 7.19 (1H, t), 6.90 (1H, d).

reactant | diphenylamine | 157 mmol, 26.6 g | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | oxalyl chloride | 170 mmol, 14.8 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | hydrogen chloride | Cl | ClH
solvent | toluene | 65 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
product | 1-phenyl-1H-indole-2,3-dione | 33.0 g, 94% yield | C1(=CC=CC=C1)N1C(C(C2=CC=CC=C12)=O)=O | C14H9NO2
